US07030116B2
(R)-2-Cyclohexylmethyl-N-[(S)-1-(5-ethyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-4-morpholin-4-yl-4-oxo-butyramide
It is similarly prepared according to general procedure given for example 8 above but using (R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid and (S)-2-Amino-1-(5-ethyl-1,2,4-oxadiazol-3-yl)-butan-1-ol; compound with trifluoro-acetic acid.

reactant | (R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid | C1(CCCCC1)C[C@@H](C(=O)O)CC(=O)N1CCOCC1 | C15H25NO4
reactant | (S)-2-Amino-1-(5-ethyl-1,2,4-oxadiazol-3-yl)-butan-1-ol; compound with trifluoro-acetic acid | FC(C(=O)O)(F)F.NC([C@H](O)C1=NOC(=N1)CC)CC
product | (R)-2-Cyclohexylmethyl-N-[(S)-1-(5-ethyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-4-morpholin-4-yl-4-oxo-butyramide | C1(CCCCC1)C[C@@H](C(=O)N[C@@H](CC)C(=O)C1=NOC(=N1)CC)CC(=O)N1CCOCC1 | C23H36N4O5
